US09163033B2
(±)-2-bromo-N-(phenylmethoxy)butanamide (4b, 4i):
Prepared in 72% yield (4.71 g, 17.3 mmol) from the reaction of 2-bromobutyryl bromide (5.0 g, 24 mmol) with O-benzylhydroxylamine, hydrochloride via general procedure A. Rf=0.49 (3:1, hexanes:EtOAc); mp=99.3-101.6° C.; 1H-NMR (500 MHz, CDCl3): δ 8.92 (br s, 1H), 7.52-7.31 (m, 5H), 4.93 (s, 2H), 4.12 (app q, J=7.2 Hz 1H), 2.02-1.94 (m, 2H), and 1.00 (t, J=7.0 Hz, 3H); 13C-NMR (126 MHz, CDCl3): δ 166.6, 134.8, 129.5, 129.0, 128.7, 78.4, 48.8, 28.8, and 11.8; FT-IR (neat) 3112, 2963, 2933, 2874, 1695, 1668 (s), 1528, 1496, 1454, 1364, 1177, 1089, 1023 cm-1. HRMS calculated for C11H15BrNO [M+H]+, 256.0332; found 256.0329.

reactant | 2-bromobutyryl bromide | 24 mmol, 5.0 g | BrC(C(=O)Br)CC | C4H6Br2O
reactant | O-benzylhydroxylamine, hydrochloride | Cl.C(C1=CC=CC=C1)ON
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-2-bromo-N-(phenylmethoxy)butanamide | 72% yield | BrC(C(=O)NOCC1=CC=CC=C1)CC | C11H14BrNO2
